US07737149B2
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(3,4-dimethylpiperazin-1-yl)pyrazine-2-carboxamide
5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (390 mg, 1.00 mmol) was added in one portion to 1,2-dimethyl-piperazine (228 mg, 2.00 mmol) in anhydrous dimethylsulfoxide (2.00 ml) at 25° C. The resulting solution was stirred at ambient temperature for 2 h. The residue was purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by silica column chromatography, eluting with a gradient of 0 to 10% 7M NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (392 mg, 84%) as a yellow solid.

reactant | 5-Chloro-N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 1.00 mmol, 390 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)OCC1=CC(=CC(=C1)OC)OC | C17H16ClN5O4
reactant | 1,2-dimethyl-piperazine | 2.00 mmol, 228 mg | CN1C(CNCC1)C | C6H14N2
solvent | dimethylsulfoxide | 2.00 ml | CS(=O)C | C2H6OS
product | N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-5-(3,4-dimethylpiperazin-1-yl)pyrazine-2-carboxamide | 392 mg, 84% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1CC(N(CC1)C)C | C23H29N7O4
